US09281482B2
(2) synthesis of N-(3-bromophenyl)-N-phenylphenanthren-9-amine
N-phenylphenanthren-9-amine (4.51 g, 16.74 mmol), 1,3-dibromobenzene (6.05 mL, 50.23 mmol), Pd2(dba)3 (307 mg, 0.355 mmol), tris-o-tolyphosphine (0.255 mL, 0.837 mmol), sodium tert-butoxide (3.2 g, 33.49 mmol) were put in a 250 mL two-neck flask and dissolved in toluene. The solution was refluxed and stirred for 12 hours. After completion of the reaction, the solution was extracted with DI water/methylenechloride and distilled under reduced pressure to remove the solvent. The resultant was columned with a solution of n-hexane and methylenechloride (7:1). The resultant was distilled under reduced pressure and re-crystallized such that the wax compound was obtained, (2.9 g, yield: 41%).

reactant | N-phenylphenanthren-9-amine | 16.74 mmol, 4.51 g | C1(=CC=CC=C1)NC=1C2=CC=CC=C2C=2C=CC=CC2C1 | C20H15N
reactant | 1,3-dibromobenzene | 50.23 mmol, 6.05 mL | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | sodium tert-butoxide | 33.49 mmol, 3.2 g | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.355 mmol, 307 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-bromophenyl)-N-phenylphenanthren-9-amine | yield: 41% | BrC=1C=C(C=CC1)N(C=1C2=CC=CC=C2C=2C=CC=CC2C1)C1=CC=CC=C1 | C26H18BrN
